US06159962
f) N-(2-Methyl-1-naphthyl)piperazine
14.7 g (82.7 mM [sic]) of bis(2-chloroethyl)amine ×HCl were added to 13.0 g (82.7 mM [sic]) of 1-amino-2-methylnaphthalene in 100 ml of chlorobenzene and refluxed under nitrogen for 90 h. The mixture was then concentrated and partitioned between methylene chloride and water at pH=9, and the organic phase was dried and concentrated. The crude product was purified by column chromatography (silica gel, eluent/THF/methanol/ammonia 85/13/2. 11.6 g (62%) of product were isolated.

reactant | bis(2-chloroethyl)amine | 82.7 mM, 14.7 g | ClCCNCCCl | C4H9Cl2N
reactant | HCl | Cl | ClH
reactant | 1-amino-2-methylnaphthalene | 82.7 mM, 13.0 g | NC1=C(C=CC2=CC=CC=C12)C | C11H11N
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-(2-Methyl-1-naphthyl)piperazine | 11.6 g, 62% | CC1=C(C2=CC=CC=C2C=C1)N1CCNCC1 | C15H18N2
